US04820715
4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2,2-dimethoxyethoxy)benzamide
A mixture of 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride (8.06 g, 0.025 mole), chloroacetaldehyde dimethyl acetal (6.23 g; 0.05 mole), potassium carbonate (6.91 g, 0.05 mole) and sodium bromide (2.57 g, 0.025-mole) in 100 ml of dry DMF was stirred at reflux for 8 hours. After four hours at reflux an additional amount of the alkylating agent (6.23 g, 0.05 mole) was added. The mixture was filtered and the DMF was removed under vacuum. The oily residue was redissolved in methylene chloride and washed sequentially with water, aqueous 1.0N NaOH, water and saturated NaCl solution. The solvent was evaporated and the product was further purified by chromatography using a gradient elution of methanol-methylene chloride containing 0.25% of ammonia. The appropriate fractions were combined and evaporated to give a yellow residue. Recrystallization from ethyl acetate-petroleum ether yielded the title compound as a white solid; wt. 5.5 g (59.8%), mp 64°-67°. The NMR spectrum (90 MHz) in CDCl3 gave the following resonances: δ 8.19 (s, 1H); 6.32 (s, 1H); 4.83 (t, 2H); 4.42 (bs, 2H); 4.08 (d, 2H); 3.55 (m, 2H); 3.50 (m, 2H); 2.41 (m, 6H); 1.1 (t, 6H).

reactant | 4-amino-5-chloro-N-[2-(diethylamino)ethyl]-2-hydroxybenzamide hydrochloride | 0.025 mole, 8.06 g | Cl.NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)O
reactant | chloroacetaldehyde dimethyl acetal | 0.05 mole, 6.23 g | COC(CCl)OC | C4H9ClO2
reactant | potassium carbonate | 0.05 mole, 6.91 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bromide | 0.025-mole, 2.57 g | [Br-].[Na+]
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 4-Amino-5-chloro-N-[2-(diethylamino)ethyl]-2-(2,2-dimethoxyethoxy)benzamide | NC1=CC(=C(C(=O)NCCN(CC)CC)C=C1Cl)OCC(OC)OC | C17H28ClN3O4
